US06284892B1
Production of MOC-lysine
372 g (2.0 mole) lysine hydrochloride in 900 g water are introduced into a 2 l stirred flask. A pH of 11.6 is adjusted by the addition of 152 g (3.8 mole) sodium hydroxide. After cooling to 13-15° C., 541 g (6.0 mole) dimethyl carbonate are added, and the reaction is initiated by intensive stirring. The reaction is finished after 7 h at this temperature. The pH was held constant throughout the reaction period at 11.5-11.7 by continuous dispensing of 430 ml sodium hydroxide (10%-concentration).

reactant | lysine hydrochloride | 2.0 mole, 372 g | Cl.N[C@@H](CCCCN)C(=O)O
reactant | sodium hydroxide | 3.8 mole, 152 g | [OH-].[Na+]
reactant | dimethyl carbonate | 6.0 mole, 541 g | C(OC)(OC)=O | C3H6O3
reactant | sodium hydroxide | 430 ml | [OH-].[Na+]
solvent | water | 900 g | O | H2O
product | lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
